US08729271B2
N-Cyclobutyl-N-({2-[3-(difluoromethoxy)-4-fluorophenyl]pyridin-4-yl}methyl)-1-methyl-1H-imidazole-4-carboxamide dihydrochloride
A mixture of N-cyclobutyl-N-{[2-(4-fluoro-3-hydroxyphenyl)pyridin-4-yl]methyl}-1-methyl-1H-imidazole-4-carboxamide (200 mg), sodium chlorodifluoroacetate (190 mg), cesium carbonate (241 mg), dimethylformamide (1.5 mL) and water (0.15 mL) was stirred while heating at 100° C. for 5 hr. After the reaction mixture was cooled in ice, concentrated hydrochloric acid (0.2 mL) was added thereto, and the resulting mixture was stirred for 1 hr. After addition of an aqueous solution of 2M sodium hydroxide, the mixture was extracted with ethyl acetate. The organic phase was separated out, and the solvent was distilled off under reduced pressure. The resulting residue was purified by HPLC. The resulting residue was dissolved in acetonitrile, and 4N hydrochloric acid/ethyl acetate was added thereto, followed by concentration to afford the title compound (30 mg).

reactant | N-cyclobutyl-N-{[2-(4-fluoro-3-hydroxyphenyl)pyridin-4-yl]methyl}-1-methyl-1H-imidazole-4-carboxamide | 200 mg | C1(CCC1)N(C(=O)C=1N=CN(C1)C)CC1=CC(=NC=C1)C1=CC(=C(C=C1)F)O | C21H21FN4O2
reactant | sodium chlorodifluoroacetate | 190 mg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | cesium carbonate | 241 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | water | 0.15 mL | O | H2O
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N-Cyclobutyl-N-({2-[3-(difluoromethoxy)-4-fluorophenyl]pyridin-4-yl}methyl)-1-methyl-1H-imidazole-4-carboxamide dihydrochloride | 30 mg | Cl.Cl.C1(CCC1)N(C(=O)C=1N=CN(C1)C)CC1=CC(=NC=C1)C1=CC(=C(C=C1)F)OC(F)F | InChI=1S/C22H21F3N4O2.2ClH/c1-28-12-19(27-13-28)21(30)29(16-3-2-4-16)11-14-7-8-26-18(9-14)15-5-6-17(23)20(10-15)31-22(24)25;;/h5-10,12-13,16,22H,2-4,11H2,1H3;2*1H
